### PR TITLE
[Merged by Bors] - feat: `graphOn` API

### PR DESCRIPTION
**Pull request by YaelDillies**
From PFR

Co-authored-by: Arend Mellendijk

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by vihdzp** [comment]
FYI we already have [`Set.graphOn`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Operations.html#Set.graphOn), so it might be a good idea to redefine `Set.graph` as `Set.graphOn Set.univ`.

**Comment by YaelDillies** [comment]
You are right, and it is easy to adapt PFR. PR updated.

**Comment by b-mehta** [comment]
Please follow the PR title conventions. You can find them here: https://leanprover-community.github.io/contribute/commit.html

**Review by vihdzp — APPROVED** [review]
LGTM, cool use of `aesop`!

File: Mathlib/Data/Set/Function.lean [hunk 1]
```diff
@@ -728,6 +735,22 @@ lemma graphOn_insert (f : α → β) (x : α) (s : Set α) :
...
+lemma graphOn_comp (s : Set α) (f : α → β) (g : β → γ) :
+    s.graphOn (g ∘ f) = (fun x ↦ (x.1, g x.2)) '' s.graphOn f := by
+  simpa using image_comp (fun x ↦ (x.1, g x.2)) (fun x ↦ (x, f x)) _
+
+lemma graphOn_univ_eq_range : univ.graphOn f = range fun x ↦ (x, f x) := image_univ
+
+lemma graphOn_univ_injective : Injective (univ.graphOn : (α → β) → Set (α × β)) := by
+  aesop (add simp [Injective, Set.ext_iff])
+
+@[simp] lemma graphOn_univ_inj {g : α → β} :
```
Comment (b-mehta) [inline Mathlib/Data/Set/Function.lean:751]: This suggests there should be a (simp) lemma saying `s.graphOn f = s.graphOn g ↔ s.EqOn f g`, then this would follow easily from that. What do you think?

**Review by b-mehta — APPROVED** [review]
Thanks!

bors merge
